US08420816B2
Step B: 5-fluoro-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde
To a 250 mL round bottom flask equipped with a stirring bar was added (5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)methanol (2.01 g, 12.10 mmol) in THF (100 mL) under nitrogen. Manganese dioxide (10.52 g, 121 mmol) was added and the reaction mixture was stirred at 60° C. for 2 h. The organics were filtered through a pad of Celite, rinsed with EtOAc (100 mL) and concentrated. The resulting solid was triturated with EtOAc (50 mL) and filtered to give the title compound as a light yellow solid (1.3 g, 65.5%). 1H NMR (400 MHz, CD3OD) δ 4.59 (s, 1 H) 5.34 (d, J=3.54 Hz, 1 H) 5.86-6.08 (m, 1 H) 6.58 (d, J=3.28 Hz, 1 H). [M+H] calc'd for C8H5FN2O, 165; found, 165.5.

reactant | (5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)methanol | 12.10 mmol, 2.01 g | FC=1C(=C2C(=NC1)NC=C2)CO | C8H7FN2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | Manganese dioxide | 121 mmol, 10.52 g | [O-2].[O-2].[Mn+4]
product | 5-fluoro-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 1.3 g, 65.5% | FC1=C(C2=C(N=C1)NC=C2)C=O | C8H5FN2O
